US08466186B2
(c) N-{4-Chloro-3-[5-chloro-6-(3-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-carbamic acid tert-butyl ester
(4-Chloro-3-isothiocyanato-benzyl)-carbamic acid tert-butyl ester (111 mg, 0.4 mmol) was added to 4-chloro-5-(3-dimethylaminomethyl-pyrrolidin-1-yl)-benzene-1,2-diamine (100 mg, 0.4 mmol) in DMF (3 mL). The mixture was stirred at rt overnight, DIC (62.4 μL, 0.4 mmol) was added and stirring was continued at 80° C. for 3 h. The mixture was concentrated and the crude was purified by chromatography to give the sub-title compound.

reactant | (4-Chloro-3-isothiocyanato-benzyl)-carbamic acid tert-butyl ester | 0.4 mmol, 111 mg | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)Cl)N=C=S)=O | C13H15ClN2O2S
reactant | 4-chloro-5-(3-dimethylaminomethyl-pyrrolidin-1-yl)-benzene-1,2-diamine | 0.4 mmol, 100 mg | ClC=1C=C(C(=CC1N1CC(CC1)CN(C)C)N)N | C13H21ClN4
reactant | DIC | 0.4 mmol, 62.4 μL | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-{4-Chloro-3-[5-chloro-6-(3-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)Cl)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2CC(CC2)CN(C)C)=O | C26H34Cl2N6O2
